US06194450B1
(d) Preparation of methyl 3-[(3-(1-adamantyl)-4-methoxybenzoyl)methyloxy]-4-bromomethylbenzoate
A solution of methyl 3[(3-(1-adamantyl)-4-methoxybenzoyl)methyloxy]-4-methylbenzoate (2.36 g, 5.26 mmol) and benzoyl peroxide (0.02 g) in carbon tetrachloride (50 ml) was heated to reflux. Benzoyl peroxide (0.03 g) and N-bromosuccinimide (1.05 g, 5.9 mmol) were added. The mixture was heated for four hours at reflux. 50 ml of water and 50 ml of dichloromethane were added. After separation of the phases once settling had taken place, the organic phase was washed twice with 50 ml of water and dried over magnesium sulfate. After concentration on a rotary evaporator at 40° C. under vacuum, the desired product was isolated by flash chromatography (CH2Cl2). Its properties were as follows:

reactant | methyl 3[(3-(1-adamantyl)-4-methoxybenzoyl)methyloxy]-4-methylbenzoate | 5.26 mmol, 2.36 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)COC=3C=C(C(=O)OC)C=CC3C)C=CC2OC | C28H32O5
reactant | benzoyl peroxide | 0.02 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | Benzoyl peroxide | 0.03 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 5.9 mmol, 1.05 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 50 ml | O | H2O
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | methyl 3-[(3-(1-adamantyl)-4-methoxybenzoyl)methyloxy]-4-bromomethylbenzoate | Yield: 34% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)COC=3C=C(C(=O)OC)C=CC3CBr)C=CC2OC | C28H31BrO5
